US08492582B2
Phenylboranic acid (21 mg), tripotassium phosphate (69 mg), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.2 mg), and palladium(II) acetate (1.3 mg) were added to a toluene (1.2 mL) solution of tert-butyl 2-(4-chloropyridine-2-carboxamido)-4-phenylbenzoate (60 mg), followed by heating to reflux under a nitrogen atmosphere for 3 hours. The reaction mixture was cooled to room temperature, and then phenylboranic acid (5.4 mg), tripotassium phosphate (16 mg), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (1.2 mg), and palladium(II) acetate (1.3 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate and a 10% aqueous solution of citric acid were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 100-85% hexane/ethyl acetate] to obtain 65 mg of tert-butyl 4-phenyl-2-(4-phenylpyridine-2-carboxamido)benzoate as a colorless oily substance.

reactant | Phenylboranic acid | 21 mg | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | tripotassium phosphate | 69 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tert-butyl 2-(4-chloropyridine-2-carboxamido)-4-phenylbenzoate | 60 mg | ClC1=CC(=NC=C1)C(=O)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CC=CC=C1 | C23H21ClN2O3
reactant | phenylboranic acid | 5.4 mg | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | tripotassium phosphate | 16 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | palladium(II) acetate | 1.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 1.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.2 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-phenyl-2-(4-phenylpyridine-2-carboxamido)benzoate | 65 mg | C1(=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C1=NC=CC(=C1)C1=CC=CC=C1 | C29H26N2O3
